US04713392
E. 1-(4-ethoxyphenyl)-1-(3-(3-phenoxyphenyl)-2-hydroxypropyl)-cyclopropane (Compound e)
A Grignard reagent prepared from 3-phenoxybenzyl bromide (0.98 g), magnesium turnings (0.1 g) in dry diethyl ether (15 ml) under an atmosphere of nitrogen, is cooled with vigorous stirring to -78° C. To this is added a solution of 1-(4-ethoxyphenyl)-1-(2-oxoethyl)-cyclopropane (0.5 g) in diethyl ether (15 ml) over 5 min. The resulting mixture is allowed to warm up to room temperature over 1 h. Saturated NH4Cl solution is added and the mixture extracted with diethyl ether (x3), dried and the solvent evaporated under reduced pressure. The product is purified by t.l.c. on silica eluted with 10% diethyl ether in petroleum ether (b.p. 60°-80° C.). Yield 0.25 g, nD 1.5444.

reactant | 3-phenoxybenzyl bromide | 0.98 g | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11BrO
reactant | magnesium | 0.1 g | [Mg] | Mg
reactant | 1-(4-ethoxyphenyl)-1-(2-oxoethyl)-cyclopropane | 0.5 g | C(C)OC1=CC=C(C=C1)C1(CC1)CC=O | C13H16O2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
product | 1-(4-ethoxyphenyl)-1-(3-(3-phenoxyphenyl)-2-hydroxypropyl)-cyclopropane | C(C)OC1=CC=C(C=C1)C1(CC1)CC(CC1=CC(=CC=C1)OC1=CC=CC=C1)O | C26H28O3
